US08476430B2
C. 6-Amino-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-5(4H)-one
A mixture of 2-methyl-3-nitrobenzimidohydrazide (2.10 g, 10.81 mmol) and ethyl 2-amino-2-thioxoacetate (3.60 g, 27.0 mmol) in ethanol (100 mL) was heated at reflux for 8 hr, during which period product precipitated. Upon cooling to rt, the product, 6-amino-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-5(2H)-one (2.18 g) was collected as a white solid by suction filtration and dried under vacuum. This product was 88% pure by HPLC. It was used in the next step without further purification.

reactant | 2-methyl-3-nitrobenzimidohydrazide | 10.81 mmol, 2.10 g | CC1=C(C(NN)=N)C=CC=C1[N+](=O)[O-] | C8H10N4O2
reactant | ethyl 2-amino-2-thioxoacetate | 27.0 mmol, 3.60 g | NC(C(=O)OCC)=S | C4H7NO2S
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 6-Amino-3-(2-methyl-3-nitrophenyl)-1,2,4-triazin-5(4H)-one | NC=1C(NC(=NN1)C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C10H9N5O3
